US08207164B2
e) (5-{5-[(5-Cyano-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-difluoromethyl-2-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
A solution of [5-(5-amino-2-fluoro-phenyl)-5-difluoromethyl-2-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (140 mg, 0.375 mmol), 5-cyano-2-pyridinecarboxylic acid (83 mg, 0.562 mmol) and HOAT (92 mg, 0.675 mmol) in 2 mL DMF was cooled to 0-5° C. EDC (108 mg, 0.562 mmol) followed by DIPEA (97 mg, 0.750 mmol) was added. The reaction mixture was allowed to, warm up to room temperature. After 135 minutes, the mixture was partitioned between saturated aqueous NaHCO3 solution and EtOAc. The layers were separated, washed with saturated aqueous NaHCO3 solution, brine and EtOAc. The combined organic layers were dried over MgSO4.H2O and evaporated. The crude product was purified on a silica gel column by eluting with hexane/EtOAc 3/1->2/1 to give the title compound as a diasteromeric mixture (white foam).

reactant | [5-(5-amino-2-fluoro-phenyl)-5-difluoromethyl-2-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.375 mmol, 140 mg | C(C)(C)(C)OC(NC=1C(OCC(N1)(C(F)F)C1=C(C=CC(=C1)N)F)C)=O | C17H22F3N3O3
reactant | 5-cyano-2-pyridinecarboxylic acid | 0.562 mmol, 83 mg | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
reactant | HOAT | 0.675 mmol, 92 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.562 mmol, 108 mg
reactant | DIPEA | 0.750 mmol, 97 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (5-{5-[(5-Cyano-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-difluoromethyl-2-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(OCC(N1)(C(F)F)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1)C#N)F)C)=O | C24H24F3N5O4
